* DC multi-source series mesh — Schaum's Fig. 3-27
V1 n1 0 DC 21.5
R1 n1 a 2
R2 a nc 4
V2 nc nd DC 30.7
R3 nd ne 3
V3 b ne DC 17.1
V4 nf b DC 13.6
R4 nf 0 1
.op
.print dc V(a) V(b)
.end